US06833480B2
A solution of 2,4-dimethylphenylacetylene (0.02 mol), 4-chlorobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-2,4-dimethylstyryl-4-chlorobenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 2,4-dimethylphenylacetylene | 0.02 mol | CC1=C(C=CC(=C1)C)C#C | C10H10
reactant | 4-chlorobenzyl mercaptan | 0.02 mol | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-2,4-dimethylstyryl-4-chlorobenzylsulfide | CC1=C(\C=C/C(C2=CC=C(C=C2)Cl)SC(C2=CC=C(C=C2)Cl)\C=C/C2=C(C=C(C=C2)C)C)C=CC(=C1)C | C34H32Cl2S
